US08293911B2
Step A: (4-Bromo-2,6-dimethyl-phenyl)-carbamic acid ethyl ester
Ethyl chloroformate (0.55 g, 0.48 mL, 5 mmol) was added to a solution of 4-bromo-2,6-dimethyl-phenylamine (1.0 g, 5 mmol) in acetonitrile (20 mL). The reaction mixture was stirred at reflux for 16 hours. Water was added to the mixture and the precipitate formed collected to give the title compound as a powder (1.32 g, 97% yield).

reactant | Ethyl chloroformate | 5 mmol, 0.48 mL, 0.55 g | ClC(=O)OCC | C3H5ClO2
reactant | 4-bromo-2,6-dimethyl-phenylamine | 5 mmol, 1.0 g | BrC1=CC(=C(C(=C1)C)N)C | C8H10BrN
reactant | Water | O | H2O
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | (4-Bromo-2,6-dimethyl-phenyl)-carbamic acid ethyl ester | 1.32 g, 97% yield | C(C)OC(NC1=C(C=C(C=C1C)Br)C)=O | C11H14BrNO2
